US05371101
4-(trifluoromethyl)phenylhydrazonoacetic acid (6.26 g, 27 mmol) was suspended in 176 ml of toluene, and 4.0 ml of triethylamine (28.7 mmol) and 6.1 ml of diphenylphosphorylazide (28.3 mmol) were added and the resulting mixture was stirred for one hour at 120° C. After cooling, the reaction solution was extracted with 200 ml of an aqueous solution of potassium hydroxide (10%). The aqueous extract was acidified with concentrated hydrochloric acid to adjust pH to 1, and the crystals thus separated out were-washed with water and hexane successively and dried over phosphorus pentoxide to give 4.48 g of 2-(4-trifluoromethylphenyl)-3(2H,4H)-1,2,4-triazolone (72%) as a colorless powder.

reactant | 4-(trifluoromethyl)phenylhydrazonoacetic acid | 27 mmol, 6.26 g | FC(C1=CC=C(C=C1)NN=CC(=O)O)(F)F | C9H7F3N2O2
reactant | triethylamine | 28.7 mmol, 4.0 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphorylazide | 28.3 mmol, 6.1 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
solvent | toluene | 176 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(4-trifluoromethylphenyl)-3(2H,4H)-1,2,4-triazolone | 4.48 g, 72% | FC(C1=CC=C(C=C1)N1N=CNC1=O)(F)F | C9H6F3N3O
